US07071175B1
A solution of KOH (106 mg, 1.88 mmol) in EtOH (2 mL) was added to a solution of 2-(2-[N,N-bis(tert-butoxycarbonyl)amino]-pyrimidin-5-ylmethyl)-malonic acid diethyl ester (0.80 g, 1.71 mmol) in EtOH/methylene chloride (2:1, 12 mL) at 0° C. The mixture was stirred for 16 h at room temperature and EtOAc was added. The mixture was washed with 0.5 M HCl and brine, dried and concentrated under reduced pressure to give 2-(2-[N,N-bis(tert-butoxycarbonyl)amino]-pyrimidin-5-ylmethyl)-malonic acid monoethyl ester (0.67 g, 89%).

reactant | KOH | 1.88 mmol, 106 mg | [OH-].[K+]
reactant | 2-(2-[N,N-bis(tert-butoxycarbonyl)amino]-pyrimidin-5-ylmethyl)-malonic acid diethyl ester | 1.71 mmol, 0.80 g | C(C)OC(C(C(=O)OCC)CC=1C=NC(=NC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C22H33N3O8
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | EtOH methylene chloride | 12 mL | CCO.C(Cl)Cl
product | 2-(2-[N,N-bis(tert-butoxycarbonyl)amino]-pyrimidin-5-ylmethyl)-malonic acid monoethyl ester | 0.67 g, 89% | C(C)OC(C(C(=O)O)CC=1C=NC(=NC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C20H29N3O8
